US05616537
Preparation of Sodium 3-Benzoyl-5-(4,6-dimethoxypyrimidin-2-yl)oxy-2-trifluoromethylbenzofuran-4-carboxylate (Compound No. 77)
While stirring 0.35 g of sodium hydride in 30 ml of N,N-dimethylformamide at room temperature, 1.73 g of 3-benzoyl-5-hydroxy-2-trifluoromethylbenzofuran-4-carboxylic acid was gradually added thereto. After completion of the addition, the mixture was further stirred for one hour. While stirring this mixture at room temperature, 1.08 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine was added thereto, and then the mixture was stirred at 70° C. for 3 hours. The mixture was returned to room temperature and poured into water. Precipitated crystals were separated by filtration and washed with water and acetone to obtain 1.02 g (yield: 40.5%) of the desired compound.

reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | 3-benzoyl-5-hydroxy-2-trifluoromethylbenzofuran-4-carboxylic acid | 1.73 g | C(C1=CC=CC=C1)(=O)C1=C(OC=2C1=C(C(=CC2)O)C(=O)O)C(F)(F)F | C17H9F3O5
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 1.08 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Sodium 3-Benzoyl-5-(4,6-dimethoxypyrimidin-2-yl)oxy-2-trifluoromethylbenzofuran-4-carboxylate | 1.02 g, yield: 40.5% | C(C1=CC=CC=C1)(=O)C1=C(OC=2C1=C(C(=CC2)OC2=NC(=CC(=N2)OC)OC)C(=O)[O-])C(F)(F)F.[Na+] | InChI=1S/C23H15F3N2O7.Na/c1-32-14-10-15(33-2)28-22(27-14)35-13-9-8-12-16(17(13)21(30)31)18(20(34-12)23(24,25)26)19(29)11-6-4-3-5-7-11;/h3-10H,1-2H3,(H,30,31);/q;+1/p-1
